US04769472
3-(2-Methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole
A mixture of (3-bromothien-2-yl)(2-methoxyphenyl)methanone (10 g), methyl hydrazine (10 ml) and ethylene glycol (70 ml) was stirred at 110°-120° C. for two hours under nitrogen. The reaction mixture was then allowed to cool to room temperature, quenched with 125 ml of water and the organics were extracted into a 50:50 ether/ethyl acetate solution. Washing, drying (over anhydrous magnesium sulfate) and then evaporation of the solvents left 10 g of an oil. This oil was passed through a silica gel column packed in hexane and eluted with dichloromethane to give 7 g of an oil which subsequently crystallized. Recrystallization from ether/hexane gave 4 g of a crystalline solid, m.p. 94°-97° C.

reactant | (3-bromothien-2-yl)(2-methoxyphenyl)methanone | 10 g | BrC1=C(SC=C1)C(=O)C1=C(C=CC=C1)OC | C12H9BrO2S
reactant | methyl hydrazine | 10 ml | CNN | CH6N2
solvent | ethylene glycol | 70 ml | C(CO)O | C2H6O2
product | 3-(2-Methoxyphenyl)-1-methyl-1H-thieno[3,2-c]pyrazole | 7 g | COC1=C(C=CC=C1)C=1C2=C(N(N1)C)C=CS2 | C13H12N2OS
